US09447091B2
b) 2-(4-Ethylpiperazin-1-yl)acetic acid
The solution of ethyl 2-(4-ethylpiperazin-1-yl)acetate (1.3 g, 6.50 mmol, 1.0 eq) in 8 N HCl stirred at 95° C. for 16 h. The mixture was concentrated on vacuum pump, and quenched and extracted as in Intermediate Example 15(b). The solvent was distilled off to afford the product in 54.5% yield (0.6 g).

reactant | ethyl 2-(4-ethylpiperazin-1-yl)acetate | 6.50 mmol, 1.3 g, 1.0 eq | C(C)N1CCN(CC1)CC(=O)OCC | C10H20N2O2
solvent | HCl | 8 N | Cl | ClH
product | 2-(4-Ethylpiperazin-1-yl)acetic acid | 54.5% yield | C(C)N1CCN(CC1)CC(=O)O | C8H16N2O2
